US07598257B2
Step 4: 4-[2-(Trityloxy)ethyl]cyclohexanol.
4-(2-Hydroxyethyl)cyclohexanol (crude from the previous reaction) (1.88 g, 0.0130 mol) was dissolved in pyridine (20.00 mL) and was cooled at 0° C. To the reaction was added triphenylmethyl chloride (4.0 g, 0.014 mol) and this mixture was stirred at 0° C. for 2 hours and at 25° C. for 16 hours. The reaction was concentrated using a rotary evaporator and the concentrate was extracted with ethyl acetate. The organic extracts were washed with water, and saturated NaCl, then dried (MgSO4) and concentrated in vacuo. The concentrate was chromatographed on silica gel (30% EtOAc/hexanes) to give the trans isomer (1.98 g)

reactant | 4-(2-Hydroxyethyl)cyclohexanol | OCCC1CCC(CC1)O | C8H16O2
reactant | triphenylmethyl chloride | 0.014 mol, 4.0 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | pyridine | 20.00 mL | N1=CC=CC=C1 | C5H5N
product | 4-[2-(Trityloxy)ethyl]cyclohexanol | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OCCC1CCC(CC1)O | C27H30O2
